US04053606
To 0.5 moles of alanine ethyl ester hydrochloride in 500 ml. of benzene is added 0.5 moles of acryloyl chloride. To this stirred mixture is added portionwise 0.6 moles of anhydrous sodium carbonate. The reaction mixture is then refluxed for 1 hour, stirred an additional 2 hours, filtered, and the filtrate concentrated to give N-acryloylalanine ethyl ester.

reactant | alanine ethyl ester hydrochloride | 0.5 moles | Cl.C(C)OC([C@@H](N)C)=O
reactant | acryloyl chloride | 0.5 moles | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium carbonate | 0.6 moles | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-acryloylalanine ethyl ester | C(C)OC([C@@H](NC(C=C)=O)C)=O | C8H13NO3
